US07091214B2
1-(4-Amino-7-bromo-2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl)-2-methylpropan-2-ol (2.62 g, 6.67 mmol) and 3-(N-tert-butoxycarbonylaminomethyl)phenylboronic acid (2.0 g, 8.0 mmol) were coupled according to the procedure described in Part J of Example 1. Palladium (II) acetate was added as a 5 mg/mL solution in toluene. The reaction was heated for four hours, and the work-up procedure described in Examples 125–135 was followed. The crude product was purified by HPFC (eluting with chloroform:CMA in a gradient from 100:0 to 80:20) to provide 2.94 g of tert-butyl{3-[4-amino-2-ethoxymethyl-1-(2-hydroxy-2-methylpropyl)-1H-imidazo[4,5-c]quinolin-7-yl]benzyl}carbamate as a white solid.

reactant | 1-(4-Amino-7-bromo-2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl)-2-methylpropan-2-ol | 6.67 mmol, 2.62 g | NC1=NC=2C=C(C=CC2C2=C1N=C(N2CC(C)(O)C)COCC)Br | C17H21BrN4O2
reactant | 3-(N-tert-butoxycarbonylaminomethyl)phenylboronic acid | 8.0 mmol, 2.0 g | C(C)(C)(C)OC(=O)NCC=1C=C(C=CC1)B(O)O | C12H18BNO4
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | Palladium (II) acetate | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | tert-butyl{3-[4-amino-2-ethoxymethyl-1-(2-hydroxy-2-methylpropyl)-1H-imidazo[4,5-c]quinolin-7-yl]benzyl}carbamate | 2.94 g | C(C)(C)(C)OC(NCC1=CC(=CC=C1)C=1C=CC=2C3=C(C(=NC2C1)N)N=C(N3CC(C)(C)O)COCC)=O | C29H37N5O4
